US07186715B2
Step 2: 4-{2-[1-(Propane-2-sulfonyl)-piperidin-3-yloxy]-phenyl}-piperazine-1-carboxylic acid tert-butyl ester
4-[2-(1-Benzyloxycarbonyl-piperidin-3-yloxy)-phenyl]-piperazine-1-carboxylic acid tert-butyl ester (2.5 g, 4.7 mmol) was dissolved in methanol (20 mL). Palladium on carbon (50% water, 2.1 g) was added. A hydrogen atmosphere was established using balloons, and the mixture was stirred at r.t. for about 4 hours. The catalyst was removed by filtration with ethyl acetate through a bed of celite. The compound was isolated by running a silica gel plug with a gradient of 100% ethyl acetate (200 mL) to triethylamine in ethyl acetate (10%). The isolated product (0.382 g, 0.96 mmol) was dissolved in methylene chloride (10 mL) at 0° C., and triethylamine (0.4 mL, 2.9 mmol) was added. Isopropylsulfonyl chloride (0.13 mL, 1.15 mmol) was added dropwise, and the mixture was warmed to r.t. for about 30 minutes, which was then concentrated under reduced pressure and purified using silica gel chromatography (75% ethyl acetate in hexanes) to afford the final compound (0.39 g, 80%).

reactant | 4-[2-(1-Benzyloxycarbonyl-piperidin-3-yloxy)-phenyl]-piperazine-1-carboxylic acid tert-butyl ester | 4.7 mmol, 2.5 g | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=C(C=CC=C1)OC1CN(CCC1)C(=O)OCC1=CC=CC=C1 | C28H37N3O5
reactant | hydrogen | [H][H] | H2
reactant | triethylamine | C(C)N(CC)CC | C6H15N
reactant | triethylamine | 2.9 mmol, 0.4 mL | C(C)N(CC)CC | C6H15N
reactant | Isopropylsulfonyl chloride | 1.15 mmol, 0.13 mL | C(C)(C)S(=O)(=O)Cl | C3H7ClO2S
solvent | methanol | 20 mL | CO | CH4O
catalyst | Palladium on carbon | 2.1 g | [Pd] | Pd
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | methylene chloride | 10 mL | C(Cl)Cl | CH2Cl2
solvent | ethyl acetate | 200 mL | C(C)(=O)OCC | C4H8O2
product | 4-{2-[1-(Propane-2-sulfonyl)-piperidin-3-yloxy]-phenyl}-piperazine-1-carboxylic acid tert-butyl ester | 0.39 g, 80% | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=C(C=CC=C1)OC1CN(CCC1)S(=O)(=O)C(C)C | C23H37N3O5S
